US06642250B2
A mixture of 6-methyl-2-(3-nitrophenylamino)nicotinic acid cyanomethyl ester (15.44 g, 49.43 mmol) and triethylamine (1.00 g, 9.89 mmol) in dry methanol (160 ml) was heated under reflux overnight. After cooling, crystals were collected by filtration, washed with methanol, and dried to give 6-methyl-2-(3-nitrophenylamino)nicotinic acid methyl ester (13.84 g, 97%).

reactant | 6-methyl-2-(3-nitrophenylamino)nicotinic acid cyanomethyl ester | 49.43 mmol, 15.44 g | C(#N)COC(C1=C(N=C(C=C1)C)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C15H12N4O4
reactant | triethylamine | 9.89 mmol, 1.00 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 160 ml | CO | CH4O
product | 6-methyl-2-(3-nitrophenylamino)nicotinic acid methyl ester | 13.84 g, 97% | COC(C1=C(N=C(C=C1)C)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H13N3O4
